US08304446B2
N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride
To a cooled, 0° C., solution of 5-chloro-N-[1-[(3-cyanophenyl)methyl]-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide (for a preparation see Intermediate 3) (11.1 g, 24.2 mmol) in THF (150 mL) was added, dropwise maintaining temp below 10° C., 1.0M lithium aluminium hydride solution in ether (60.5 mL, 60.5 mmol), effervescence occurred, and the suspension was stirred at room temperature for one hour. The reaction was quenched by addition of water (7 mL), followed by a 2.0M solution of sodium hydroxide (42.5 mL). After stirring for 30 minutes the solid was removed by filtration and washed with THF. The combined filtrate and washings were treated with 140 g SCX silica. This was filtered and washed with methanol (1 L), and then 10% 2N hydrochloric acid in methanol (2 L). The required fractions were combined and concentrated. The resultant solid was collected by filtration and washed with water. The solid was dried in vacuo to give the title compound (N7916-76-1) (9.3 g, 77%) as a white solid. LCMS (System A) RT=0.85 min, ES+ve m/z 463/465 (M+H)+.

reactant | 5-chloro-N-[1-[(3-cyanophenyl)methyl]-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC1=CC(=CC=C1)C#N | C20H15ClN4O3S2
reactant | lithium aluminium hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 60.5 mmol, 60.5 mL | CCOCC | C4H10O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride | 9.3 g, 77% | Cl.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl | InChI=1S/C20H19ClN4O3S2.ClH/c1-28-16-7-3-6-15-19(16)20(24-30(26,27)18-9-8-17(21)29-18)23-25(15)12-14-5-2-4-13(10-14)11-22;/h2-10H,11-12,22H2,1H3,(H,23,24);1H
